US06117873
i) Dimethyl N-(7-bromo-2,3-dimethoxyquinoxalin-5-ylmethyl)aminomethylphosphonate
975 ml (10.64 mmol) of dimethyl phosphite, 1.27 ml (9.19 mmol) of triethylamine and 1.47 ml (11.6 mmol) of trimethylsilyl chloride are stirred in 200 ml of chloroform under a nitrogen atmosphere for 90 minutes. In the course of one hour, the solution is added dropwise at 0° to 3.0 g (3.22 mmol) of 1,3,5-tri-N-(7-bromo-2,3-dimethoxyquinoxalin-5-ylmethyl)-[1,3,5]-triazinan dissolved in 200 ml of chloroform. After stirring at room temperature for 16 h, the suspension is poured onto ice-cold hydrochloric acid (0.1N in water) and treated with 3 parts of ether. The organic phase is exhaustively extracted by shaking with 0.1N aqueous hydrochloric acid. The combined aqueous phases are adjusted to pH 12-13 with potassium carbonate solution and extracted 6 times with dichloromethane. After drying over sodium sulfate and concentrating the organic phase, 3.65 g of slightly yellow-colored crystals of the title compound are obtained.

reactant | dimethyl phosphite | 10.64 mmol, 975 ml | P(OC)(OC)[O-]
reactant | triethylamine | 9.19 mmol, 1.27 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 11.6 mmol, 1.47 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1,3,5-tri-N-(7-bromo-2,3-dimethoxyquinoxalin-5-ylmethyl)-[1,3,5]-triazinan | 3.22 mmol | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CN1CN(CN(C1)CC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC)CC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC | C36H36Br3N9O6
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | Dimethyl N-(7-bromo-2,3-dimethoxyquinoxalin-5-ylmethyl)aminomethylphosphonate | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CNCP(OC)(OC)=O | C14H19BrN3O5P
